US08119663B2
5-(4-Ethylphenyl)-1-[(4-cyanopiperidin-1-yl)carbonyl]piperidine-3-carboxylic acid [racemic cis isomer]
650 mg (1.60 mmol) of ethyl 5-(4-ethylphenyl)-1-[(4-cyanopiperidin-1-yl)carbonyl]piperidine-3-carboxylate were dissolved in a mixture of 20 ml of dioxane and 10 ml of water, 153 mg (6.40 mmol) of lithium hydroxide were added and the mixture was stirred at RT for 15 min. For work-up, the reaction solution was concentrated under reduced pressure, water was then added and the mixture was acidified with 1N hydrochloric acid. The precipitate formed was filtered off and dried under reduced pressure. The residue was purified by preparative HPLC. Yield: 347 mg (59% of theory)

reactant | ethyl 5-(4-ethylphenyl)-1-[(4-cyanopiperidin-1-yl)carbonyl]piperidine-3-carboxylate | 1.60 mmol, 650 mg | C(C)C1=CC=C(C=C1)C1CC(CN(C1)C(=O)N1CCC(CC1)C#N)C(=O)OCC | C23H31N3O3
reactant | lithium hydroxide | 6.40 mmol, 153 mg | [OH-].[Li+]
solvent | dioxane | 20 ml | O1CCOCC1 | C4H8O2
solvent | water | 10 ml | O | H2O
product | 5-(4-Ethylphenyl)-1-[(4-cyanopiperidin-1-yl)carbonyl]piperidine-3-carboxylic acid | C(C)C1=CC=C(C=C1)C1CC(CN(C1)C(=O)N1CCC(CC1)C#N)C(=O)O | C21H27N3O3
